* INA225
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: INA225
* Date: 03/30/2017
* Model Type: All In One
* Simulator: TINA
* Simulator Version:  9.3.80.273 SF
* EVM Order Number: INA225EVM 
* EVM Users Guide: SBOU140,07 Mar 2014
* Datasheet: SBOS612,11 Mar 2014
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 0.0 : For validation
*
*****************************************************************************
* Notes: 
* This model conforms with data sheet specs & plots for the following:
* 1. AC Response, BW and Slew Rate
* 2. Common-mode input range, CMRR
* 3. VOS, IIB, IOS over the specified common-mode input range 
*    and temperature range
* 4. Power supply range, quiescent current vs power supply, PSRR
* 5. Output voltage swing versus output current
*****************************************************************************
*$
.SUBCKT INA225 IN+ IN- VS GND REF GS1 GS0 OUT
C_C1         GNDF GS1  3p  TC=0,0 
E_E3         OUT_CMRR GNDF VICM GNDF -1e-6
X_U19        VS GND SHDN GS1 GS0 VIMON GNDF IQ_SW 
X_U10        VS GND INN N01067 GNDF PSRR 
X_U20        GNDF INN VICM VS GND GNDF IIBN 
X_U11        VS GND GNDF GND_FLOAT 
X_U18        VS GND IN_VCLAMP IN_VIMON VIMON GNDF VCLAMP_W_SENSE 
R_R1         IN+ INP  5k TC=0,0 
X_U17        INP_GBW INN_GBW IN_VCLAMP SHDN GNDF VS GND GS0 GS1 GBW_SLEW_SW 
R_R6         INN_ICMR INN_GBW  1 TC=0,0 
R_R2         IN- INN  5k TC=0,0 
X_U16        GS1 GS0 INN OUT GNDF R_SW 
R_R3         N00617 OUT  1 TC=0,0 
X_U15        GS1 GS0 INP REF GNDF R_SW 
R_R4         OUT_CMRR GNDF  1 TC=0,0 
X_U9         IN_VIMON N00617 VIMON GNDF AMETER 
X_U3         VICM IN- IN+ GNDF VICM 
R_R5         INP_ICMR INP_GBW  1 TC=0,0 
C_C2         GS0 GNDF  3p  TC=0,0 
E_E1         N96873 INP_ICMR OUT_CMRR GNDF 0.5
E_E2         N01067 INN_ICMR OUT_CMRR GNDF -0.5
X_U21        GNDF INP VICM VS GND GNDF IIBP 
X_U14        IN+ IN- REF GS0 GS1 OUT VS GND GNDF SHDN ABSMAXLIM 
X_U5         N96873 INP VICM VS GND GNDF VOS 
.ENDS INA225
*$
.SUBCKT IQ_SW VCC VEE SHDN GS1 GS0 VIMON GNDF
.PARAM GL = 1000
.PARAM VTHR = 1
.PARAM VSR1 = 2.68
.PARAM VSR2 = 12
.PARAM VSR3 = 15
.PARAM VSR4 = 36
.PARAM IQG1 = 225e-6
.PARAM IQG2 = 240e-6
.PARAM IQG3 = 250e-6
.PARAM IQG4 = 270e-6
.PARAM Gv2 = 33.33e-6
.PARAM Gv3 = 0.476e-6
**
.PARAM IQ_NOM = 300e-6
.PARAM IQ_SHDN = 0.1u
.PARAM Geq = 18.75u
**
*RVCC VCC GNDF 1e9
*RVEE VEE GNDF 1e9
* convert gain-control voltages to 1's and 0's
*ES0 NS0 0 VALUE = {MAX(MIN(GL*(V(GS0)-VTHR),1),0)}
*ES1 NS1 0 VALUE = {MAX(MIN(GL*(V(GS1)-VTHR),1),0)}
ES0 NS0 0 VALUE = {0.5*(1 + SGN(V(GS0)-VTHR))}
ES1 NS1 0 VALUE = {0.5*(1 + SGN(V(GS1)-VTHR))}
**
* Select VCC-VEE region of operation
* TRUE if VCC-VEE > VSR1
ER1 NR1 0 VALUE = {0.5*(1 + SGN(V(VCC,VEE)-VSR1))}
* TRUE if VCC-VEE > VSR2
ER2 NR2 0 VALUE = {0.5*(1 + SGN(V(VCC,VEE)-VSR2))}
* TRUE if VCC-VEE > VSR3
ER3 NR3 0 VALUE = {0.5*(1 + SGN(V(VCC,VEE)-VSR3))}
*ER1 NR1 0 VALUE = {MAX(MIN(GL*(V(VCC,VEE)-VSR1),1),0)}
*ER2 NR2 0 VALUE = {MAX(MIN(GL*(V(VCC,VEE)-VSR2),1),0)}
*ER3 NR3 0 VALUE = {MAX(MIN(GL*(V(VCC,VEE)-VSR3),1),0)}
**
* Flags for gain selection
EGS0 NGS0 0 VALUE = {(1-V(NS1))*(1-V(NS0))}
EGS1 NGS1 0 VALUE = {(1-V(NS1))*(V(NS0))}
EGS2 NGS2 0 VALUE = {(V(NS1))*(1-V(NS0))}
EGS3 NGS3 0 VALUE = {(V(NS1))*(V(NS0))}
**
* Flags for region of VCC-VEE operation
* Region 1: VSR1 < VCC-VEE < VSR2
EV1 NV1 0 VALUE = {V(NR1)*(1-V(NR2))*(1-V(NR3))}
* Region 2: VSR1,VSR2 < VCC-VEE < VSR3
EV2 NV2 0 VALUE = {V(NR1)*V(NR2)*(1-V(NR3))}
* Region 3: VSR1,VSR2,VSR3 < VCC-VEE
EV3 NV3 0 VALUE = {V(NR1)*V(NR2)*V(NR3)}
**
* Assumes: V(SHDN,GNDF) = 1 when device is enabled
*          V(SHDN,GNDF) = 0 when device is disabled
*
G1 VCC VEE VALUE = {V(SHDN,GNDF)*V(NGS0)
+ *(V(NV1)*IQG1
+ + V(NV2)*(IQG1+Gv2*(V(VCC,VEE)-VSR2))
+ + V(NV3)*((IQG1+100e-6) + Gv3*(V(VCC,VEE)-VSR3)))}
*
G2 VCC VEE VALUE = {V(SHDN,GNDF)*V(NGS1)
+ *(V(NV1)*IQG2
+ + V(NV2)*(IQG2+Gv2*(V(VCC,VEE)-VSR2))
+ + V(NV3)*((IQG2+100e-6) + Gv3*(V(VCC,VEE)-VSR3)))}
*
G3 VCC VEE VALUE = {V(SHDN,GNDF)*V(NGS2)
+ *(V(NV1)*IQG3
+ + V(NV2)*(IQG3+Gv2*(V(VCC,VEE)-VSR2))
+ + V(NV3)*((IQG3+100e-6) + Gv3*(V(VCC,VEE)-VSR3)))}
*
G4 VCC VEE VALUE = {V(SHDN,GNDF)*V(NGS3)
+ *(V(NV1)*IQG4
+ + V(NV2)*(IQG4+Gv2*(V(VCC,VEE)-VSR2))
+ + V(NV3)*((IQG4+100e-6) + Gv3*(V(VCC,VEE)-VSR3)))}
**
* Add'l current drain due to output current
GOUTP VCC GNDF VALUE = {0.5*(1 + SGN(V(VIMON,GNDF)))*V(VIMON,GNDF)*V(SHDN,GNDF)}
GOUTN VEE GNDF VALUE = {-0.5*(1 - SGN(V(VIMON,GNDF)))*V(VIMON,GNDF)*V(SHDN,GNDF)}
*GOUTP VCC GNDF VALUE = {IF(V(VIMON,GNDF) > 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
*GOUTN GNDF VEE VALUE = {IF(V(VIMON,GNDF) <= 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
.ENDS IQ_SW
*$
.SUBCKT PSRR  VDD  VSS  VI  VO  GNDF 
.PARAM PSRR = 140 
.PARAM fpsrr = 1000
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*fpsrr)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR} 
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P 
.ENDS PSRR
*$
.SUBCKT IIBN OUT IN VICM VCC VEE GNDF
*** OUT and IN are for IIB current flow **
*** INN is for voltage monitoring of the amp inverting 
*** input or for VICM 
***
**** Units for I are in uA ****
.PARAM GL = 1e6
.PARAM VICMMIN = 0
.PARAM VICMMAX = 40
.PARAM VICM0 = 0
.PARAM VICM1 = 4
.PARAM VICM2 = 5
.PARAM VICM3 = 40
.PARAM IIB0 = -5u
.PARAM IIB1 = 5u
.PARAM IIB2 = 60u
.PARAM IIB3 = 130u
.PARAM GEQ12 = 2.5u
.PARAM GEQ23 = 55u
.PARAM GEQ34 = 1u
* Select region of VCM operation
* TRUE if VICM0 < VICM < VICM1
E1 N1 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM0)*(VICM1-V(VICM))))}
* TRUE if VICM1 < VICM < VICM2
E2 N2 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM1)*(VICM2-V(VICM))))}
* TRUE if VICM2 < VICM < VICM3
E3 N3 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM2)*(VICM3-V(VICM))))}
**
G12 IN OUT VALUE = {SGN(V(VCC)-V(VEE))*
+ (V(N1)*(GEQ12*(V(VICM)-VICM0)+IIB0)
+ + V(N2)*(GEQ23*(V(VICM)-VICM1)+IIB1)
+ + V(N3)*(GEQ34*(V(VICM)-VICM2)+IIB2))}
*E1 N1 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM0)*(VICM1-V(VICM)),1),0)}
*E2 N2 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM1)*(VICM2-V(VICM)),1),0)}
*E3 N3 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM2)*(VICM3-V(VICM)),1),0)}
.ENDS IIBN
*$
.SUBCKT GND_FLOAT VDD VSS GNDF
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
*EGNDF  GNDFx 0 VALUE = {(V(VDD)+V(VSS))*0.5}
*GGNDF  GNDFx GNDF VALUE = {V(GNDFx,GNDF)*1U}
*CGNDF  GNDF  0    1
.ENDS GND_FLOAT
*$
.SUBCKT VCLAMP_W_SENSE VDD VSS VI VO VIMON GNDF
** Unlike previous versions of thsi subcircuit, this version
** contains the series output resistance ROS
** RHR is the equiv R to give the proper (negative) output
** headroom into ROS for output swing at low current.
.PARAM SCALEP = 1
.PARAM SCALEN = 1
** params at nominal temp 25C **
.PARAM ISC = 0.016
.PARAM ROS = 3500
.PARAM Rm1 = 143
.PARAM RHR = {ROS-Rm1*(1+TCRm1*(TEMP-25))}
** TCs for -40C to 125C
.PARAM TCISC = -0.00379
.PARAM TCROS = 0.01u
.PARAM TCRm1 = 0.00471
**
EHRPOS HRPOS GNDF VALUE = {MIN(V(VIMON,GNDF)*RHR,
+  ISC*(1+TCISC*(TEMP-25))*ROS*(1+TCROS*(TEMP-25))-V(VDD,GNDF))}
EHRNEG HRNEG GNDF VALUE = {MAX(V(VIMON,GNDF)*RHR,
+  -ISC*(1+TCISC*(TEMP-25))*ROS*(1+TCROS*(TEMP-25))-V(VSS,GNDF))}
*EHRPOS HRPOS GNDF VALUE = {MIN(V(VIMON,GNDF)*RHR,ISC*ROS-V(VDD,GNDF))}
*EHRNEG HRNEG GNDF VALUE = {MAX(V(VIMON,GNDF)*RHR,-ISC*ROS-V(VSS,GNDF))}
EPCLIP  VDD_CLP GNDF VALUE = {V(VDD,GNDF) + V(HRPOS,GNDF)}
ENCLIP  VSS_CLP GNDF VALUE = {V(VSS,GNDF) + V(HRNEG,GNDF)}
ECLAMP  NVO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP,GNDF), V(VSS_CLP,GNDF))}
ROUT NVO VO {ROS*(1+TCROS*(TEMP-25))}
.ENDS VCLAMP_W_SENSE
*$
.SUBCKT GBW_SLEW_SW  VIP  VIM  VO  SHDN GNDF VCC VEE GS0 GS1
.PARAM Aol = 120  
.PARAM GBW = 12e6  
.PARAM SRP = 0.4e6  
.PARAM SRN = 0.4e6 
.PARAM IT = 0.001
.PARAM PI = 3.141592
.PARAM IP = {IT*MAX(1,SRP/SRN)}
.PARAM IN = {IT*MIN(-1,-SRN/SRP)}
.PARAM CC = {IT*MAX(1/SRP,1/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
.PARAM GL = 1000
.PARAM VTHR = 1
**
** Convert digital inputs to 1's and 0's
ES0 NS0 0 VALUE = {MAX(MIN(GL*(V(GS0,VEE)-VTHR),1),0)}
ES1 NS1 0 VALUE = {MAX(MIN(GL*(V(GS1,VEE)-VTHR),1),0)}
** Flag functions dependent on digital input combinations
* Gain1 {GS1,GS0} = {0,0}
E00 N00 0 VALUE = {(1-V(NS1))*(1-V(NS0))}
* Gain2: {GS1,GS0} = {0,1}
E01 N01 0 VALUE = {(1-V(NS1))*(V(NS0))}
* Gain3: {GS1,GS0} = {1,0}
E10 N10 0 VALUE = {(V(NS1))*(1-V(NS0))}
* Gain4: {GS1,GS0} = {1,1}
E11 N11 0 VALUE = {(V(NS1))*(V(NS0))}
* Use flags and coefficients to give GBW/AOL dependent on 
* gain setting {GS1,GS0}. 
ESW N1 0 VALUE = {0.33*V(N00) + 0.65*V(N01) + 0.85*V(N10) + V(N11)}
**
G1p GNDF OUTG1p VALUE = {MAX(MIN(GC*V(N1)*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
G1n OUTG1n GNDF VALUE = {MAX(MIN(GC*V(N1)*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
RG1p OUTG1p GNDF {0.5*RC}
Cg1dp OUTG1p GNDF {2*CC} IC=0
RG1n OUTG1n GNDF {0.5*RC}
Cg1dn OUTG1n GNDF {2*CC} IC=0
**
G1OUT GNDF VO VALUE = {V(SHDN,GNDF)*V(OUTG1p,OUTG1n)}
*G1OUT GNDF VO VALUE = {V(SHDN,GNDF)*MAX(MIN(V(OUTG1p,OUTG1n),V(VCC,GNDF)),V(VEE,GNDF))}
ROUT VO GNDF 1
.ENDS GBW_SLEW_SW
*$
.SUBCKT R_SW GS1 GS0 OUT1 OUT2 GNDF
.PARAM VTHR = 1
.PARAM GL = 1e3
.PARAM RMAX = 1e6
.PARAM GET1 = 3e-6
.PARAM GET2 = 5e-6
* Temp coeffs
EGET1 NGET1 0 VALUE = {1 + GET1*(TEMP-27)}
EGET2 NGET2 0 VALUE = {1 + GET2*(TEMP-27)}
* convert digital input voltages to 1's and 0's
ES0 NS0 0 VALUE = {MAX(MIN(GL*(V(GS0)-VTHR),1),0)}
ES1 NS1 0 VALUE = {MAX(MIN(GL*(V(GS1)-VTHR),1),0)}
** Flag functions dependent on digital input combinations
* Gain1 {GS1,GS0} = {0,0}
E00 N00 0 VALUE = {(1-V(NS1))*(1-V(NS0))}
* Gain2: {GS1,GS0} = {0,1}
E01 N01 0 VALUE = {(1-V(NS1))*(V(NS0))}
* Gain3: {GS1,GS0} = {1,0}
E10 N10 0 VALUE = {(V(NS1))*(1-V(NS0))}
* Gain4: {GS1,GS0} = {1,1}
E11 N11 0 VALUE = {(V(NS1))*(V(NS0))}
* Use flags & coeffs to select equiv RF w/tempco
ESW NSW 0 VALUE = {V(NGET1)*(8*V(N00) + 4*V(N01) + 2*V(N10))
+  + V(NGET2)*V(N11)}
G1 OUT2 OUT1 VALUE = {V(NSW)*(V(OUT2,OUT1)/RMAX)}}
.ENDS R_SW
*$
.SUBCKT AMETER  VI  VO VIMON GNDF
.PARAM GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS AMETER
*$
.SUBCKT VICM OUT INP INN GNDF
EOUT OUT GNDF VALUE = {0.5*(V(INP,GNDF) + V(INN,GNDF))}
.ENDS VICM
*$
.SUBCKT IIBP OUT IN VICM VCC VEE GNDF
*** OUT and IN are for IIB current flow **
*** INN is for voltage monitoring of the amp inverting 
*** input or for VICM 
***
**** Units for I are in uA ****
.PARAM GL = 1e6
.PARAM VICMMIN = 0
.PARAM VICMMAX = 40
.PARAM VICM0 = 0
.PARAM VICM1 = 4
.PARAM VICM2 = 5
.PARAM VICM3 = 40
.PARAM IOS = 0.02u
.PARAM IIB0 = {-5u+IOS}
.PARAM IIB1 = {5u+IOS}
.PARAM IIB2 = {60u+IOS}
.PARAM IIB3 = 130u
.PARAM GEQ12 = 2.5u
.PARAM GEQ23 = 55u
.PARAM GEQ34 = 1u
* Select region of VCM operation
* TRUE if VICM0 < VICM < VICM1
E1 N1 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM0)*(VICM1-V(VICM))))}
* TRUE if VICM1 < VICM < VICM2
E2 N2 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM1)*(VICM2-V(VICM))))}
* TRUE if VICM2 < VICM < VICM3
E3 N3 0 VALUE = {0.5*(1 + SGN((V(VICM)-VICM2)*(VICM3-V(VICM))))}
**
G12 IN OUT VALUE = {SGN(V(VCC)-V(VEE))*
+ (V(N1)*(GEQ12*(V(VICM)-VICM0)+IIB0)
+ + V(N2)*(GEQ23*(V(VICM)-VICM1)+IIB1)
+ + V(N3)*(GEQ34*(V(VICM)-VICM2)+IIB2))}
*E1 N1 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM0)*(VICM1-V(VICM)),1),0)}
*E2 N2 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM1)*(VICM2-V(VICM)),1),0)}
*E3 N3 0 VALUE = {MAX(MIN(GL*(V(VICM)-VICM2)*(VICM3-V(VICM)),1),0)}
.ENDS IIBP
*$
**********.SUBCKT ABSMAXLIM IN+ IN- REF GS0 GS1 OUT VCC VEE GNDF OUT_CNTRL 
.SUBCKT ABSMAXLIM IN+ IN- REF GS0 GS1 OUT VCC VEE GNDF OUT_CNTRL 
* Test pin voltages per ABS MAX limts and shut down forward gain if
* out of limits.
* IN+ thru GNDF are inputs, OUT_CNTRL is the subcircuit output
* to control enable/disable state of model.
.PARAM GL = 1000
.PARAM VSmax = 40
.PARAM VSmin = 2.69
.PARAM VCMmax = 40
.PARAM VCMmin = -0.3
.PARAM VinDiffMax = 40
.PARAM VpinDelta = 0.3
** Test VCC & Input pin for ABS MAX Ranges
** '1' if within ABS MAX Ratings, '0' if not
** Test for VCC Max & MIN values
EVCCMAX NVCCMAX GNDF VALUE = {MAX(MIN(GL*(VSmax-V(VCC,VEE)),1),0)}
EVCCMIN NVCCMIN GNDF VALUE = {MAX(MIN(GL*(V(VCC,VEE)-VSmin),1),0)}
** Test for VICM Max & Min values
EVCMMAX NVCMMAX GNDF VALUE = {MAX(MIN(GL*(VCMmax-0.5*(V(IN+,VEE)+V(IN-,VEE))),1),0)}
EVCMMIN NVCMMIN GNDF VALUE = {MAX(MIN(GL*(0.5*(V(IN+,VEE)+V(IN-,VEE))-VCMmin),1),0)}
** Test for VIdiff Max Values
EVINDIFFMAX NVINDIFFMAX GNDF VALUE = {MAX(MIN(GL*(VinDiffMax-ABS(V(IN+,IN-))),1),0)}
** 
** Test Digital Input, REF and Output pins
** MAX Limit
EGS0MAX NGS0MAX GNDF VALUE = {MAX(MIN(GL*(VpinDelta-V(GS0,VCC)),1),0)}
EGS1MAX NGS1MAX GNDF VALUE = {MAX(MIN(GL*(VpinDelta-V(GS1,VCC)),1),0)}
EREFMAX NREFMAX GNDF VALUE = {MAX(MIN(GL*(VpinDelta-V(REF,VCC)),1),0)}
EOUTMAX NOUTMAX GNDF VALUE = {MAX(MIN(GL*(VpinDelta-V(OUT,VCC)),1),0)}
** MIN Limit
EGS0MIN NGS0MIN GNDF VALUE = {MAX(MIN(GL*(VpinDelta+V(GS0,VEE)),1),0)}
EGS1MIN NGS1MIN GNDF VALUE = {MAX(MIN(GL*(VpinDelta+V(GS1,VEE)),1),0)}
EREFMIN NREFMIN GNDF VALUE = {MAX(MIN(GL*(VpinDelta+V(REF,VEE)),1),0)}
EOUTMIN NOUTMIN GNDF VALUE = {MAX(MIN(GL*(VpinDelta+V(OUT,VEE)),1),0)}
**
EVCC NVCC GNDF VALUE = {V(NVCCMAX,GNDF)*V(NVCCMIN,GNDF)}
EVCM NVIN GNDF VALUE = {V(NVCMMAX,GNDF)*V(NVCMMIN,GNDF)*V(NVINDIFFMAX,GNDF)}
EVGS NGS  GNDF VALUE = {V(NGS0MAX,GNDF)*V(NGS1MAX,GNDF)*V(NGS0MIN,GNDF)
+                      *V(NGS1MIN,GNDF)}
ERO  NRO  GNDF VALUE = {V(NREFMAX,GNDF)*V(NOUTMAX,GNDF)*V(NREFMIN,GNDF)
+                      *V(NOUTMIN,GNDF)}
EOUTCNTRL OUT_CNTRL GNDF VALUE = {V(NVCC,GNDF)*V(NVIN,GNDF)*V(NGS,GNDF)
+                      *V(NRO,GNDF)}
.ENDS ABSMAXLIM
*$
.SUBCKT VOS OUT IN VICM VCC VEE GNDF
*** Units are in uV ***
.PARAM SCALE = 1e-6
.PARAM DRIFT = 0.2
.PARAM VICM_SHIFT = 1u
.PARAM VCC_SHIFT = 1u
.PARAM VOS_TYP = 165
*.PARAM VOS_TYP = 75
EDRIFT NDRIFT 0 VALUE = {DRIFT*(TEMP - 27)}
ESHIFT NSHIFT 0 VALUE = {VICM_SHIFT*V(VICM,GNDF)}
EVCC NVCC 0 VALUE = {V(VCC,VEE)}
EVCCSHIFT NVCCSHIFT 0 VALUE = {VCC_SHIFT*(V(NVCC) - 15)}
* Assumes temp drift, VOS shift from VICM & VCC are indepndent and additive
*EVOS OUT IN VALUE = {SCALE*(VOS_TYP + V(NDRIFT) + V(NSHIFT) + V(NVCCSHIFT))}
ETF NTF 0 VALUE = {1 + (0.5*(1 + SGN(TEMP-100))*(TEMP-100)/80)}
EVOS OUT IN VALUE = {SCALE*(VOS_TYP*V(NTF) + V(NDRIFT) + V(NSHIFT) + V(NVCCSHIFT))}
.ENDS VOS
*$
