
* INA270
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA270
* Date: 27JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS381C –FEBRUARY 2007–REVISED MAY 2010
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* BEGIN MODEL INA270
* MODEL FEATURES INCLUDE INPUT FULL SCALE RANGE,
* COMMON MODE VOLTAGE RANGE, COMMON MODE REJECTION
* WITH FREQUENCY EFFECTS, POWER SUPPLY REJECTION
* WITH FREQUENCY EFFECTS, OFFSET VOLTAGE WITH
* TEMPCO, INPUT BIAS CURRENT, BUFFER BIAS CURRENT
* WITH TEMPCO, INPUT VOLTAGE NOISE, GAIN AND GAIN
* ERROR, GAIN AND PHASE VERSUS FREQUENCY, CLOAD
* EFFECTS, PRE OUT OUTPUT RESISTANCE, ALL FIVE
* OUTPUT ERROR MODES, OUTPUT SWING, OUTPUT CURRENT
* LIMIT, OUTPUT CURRENT FLOWING THROUGH THE SUPPLY
* RAILS, SLEW RATE, AND SETTLING TIME.
* PINOUT ORDER IN- GND PREOUT BUFIN OUT V+ IN+
* PINOUT ORDER  1   2     3     4    5   6  8
.SUBCKT INA270 1 2 3 4 5 6 8
R42 2 1 1E12
R43 9 1 2.5E3
R44 9 8 2.5E3
E5 10 0 1 0 1
E6 11 0 8 0 1
R47 12 10 1E3
R48 12 11 1E3
E7 9 2 12 0 1
E8 13 0 14 0 10
R49 0 15 1E6
E9 16 0 15 0 1.0033
R50 0 17 1E12
E10 18 0 8 1 1
E11 19 0 20 9 1000
R53 0 19 1E12
E12 21 0 9 22 100
R54 0 21 1E12
E13 23 0 14 24 1000
R55 0 23 1E12
V17 24 2 0.02
M1 25 23 0 0 MNL
R56 25 26 1E5
M2 25 19 0 0 MNL
M3 25 21 0 0 MNL
V18 26 0 5
M5 27 19 0 0 MNL
R58 27 26 1E5
M6 27 21 0 0 MNL
R59 15 13 5E3
D1 28 15 DD
E14 29 0 25 0 0.04
V19 20 2 0.03
E15 30 0 31 32 0.5
R60 0 30 1E12
V20 31 0 0.3
E16 32 0 14 0 15
R61 0 32 1E12
E17 33 0 30 34 1000
D2 33 34 DD
R62 34 33 1E11
R63 0 34 1E3
E18 17 16 35 0 1
R64 0 16 1E12
R66 35 34 1E6
M8 35 36 0 0 MNL
R67 2 37 36E3
M9 38 27 0 0 MNL
R68 38 26 1E5
M10 38 23 0 0 MNL
M12 36 38 0 0 MNL
R70 36 26 1E5
R73 0 29 1E12
E20 28 0 29 15 300
R74 0 28 1E12
D3 39 14 DD
E22 39 0 40 14 500
R76 0 39 1E12
V21 40 0 0.001
R77 14 18 5E3
R78 3 41 96E3
R79 5 37 36E3
E23 41 2 17 42 0.7
Q21 43 44 45 QLN
R82 46 47 2
R83 48 47 2
R84 44 49 100
R85 50 51 100
R86 51 6 20
R87 2 49 20
R88 52 53 2E3
R89 54 22 20
R90 45 55 20
D6 5 6 DX
D7 2 5 DX
D8 56 0 DIN
D9 57 0 DIN
I9 0 56 0.1E-3
I10 0 57 0.1E-3
E24 45 0 2 0 1
E25 22 0 6 0 1
D10 58 0 DVN
D11 59 0 DVN
I11 0 58 0.4E-6
I12 0 59 0.4E-6
E26 60 37 58 59 1.03
G3 61 37 56 57 2.9E-7
I13 6 2 490E-6
R91 2 6 1E6
E27 62 0 22 0 1
E28 63 0 45 0 1
E29 64 0 12 0 1
R92 62 65 1E6
R93 63 66 1E6
R94 64 67 1E6
R95 0 65 100
R96 0 66 100
R97 0 67 100
E30 68 4 67 0 0.005
R98 69 70 1E3
R99 70 71 1E3
C7 62 65 0.2E-12
C8 63 66 0.2E-12
C9 64 67 300E-12
E31 72 68 66 0 0.001
E32 73 72 65 0 0.001
E33 74 45 22 45 0.5
D12 52 22 DX
D13 45 52 DX
M13 75 76 49 49 NOUT L=3U W=200U
M14 77 78 51 51 POUT L=3U W=200U
M15 79 79 54 54 POUT L=3U W=200U
M16 80 81 46 46 PIN L=3U W=21U
M17 82 60 48 48 PIN L=3U W=21U
M18 83 83 55 55 NOUT L=3U W=200U
R100 84 78 100
R101 85 76 100
G4 52 74 86 74 0.2E-3
R102 74 52 6E6
C13 53 5 15E-12
R103 45 80 1.7E3
R104 45 82 1.7E3
C14 80 82 6.5E-12
C15 61 0 1E-12
C16 60 0 1E-12
C17 5 0 1E-12
D14 76 43 DX
D15 87 78 DX
Q22 87 50 22 QLP
V24 61 81 -0.0024
M19 88 89 90 90 NIN L=3U W=21U
R105 91 90 2
M20 92 60 93 93 NIN L=3U W=21U
R106 91 93 2
R107 88 22 1.7E3
R108 92 22 1.7E3
C21 88 92 6.5E-12
V25 81 89 0
M21 94 95 96 96 PIN L=6U W=500U
M22 97 98 22 22 PIN L=6U W=500U
V26 22 95 1.9
M23 91 94 45 45 NIN L=6U W=500U
M24 94 94 45 45 NIN L=6U W=500U
G7 52 74 99 74 0.2E-3
I15 79 83 80E-6
E34 71 0 61 0 1
E35 69 0 37 0 1
M25 98 98 22 22 PIN L=6U W=500U
I16 98 45 45E-6
V27 97 47 0
R109 5 77 50
R110 75 5 50
J2 22 61 22 NJ
J3 22 60 22 NJ
J4 60 45 60 NJ
J5 61 45 61 NJ
C22 61 60 0.1E-12
E36 100 74 92 88 1
R111 100 99 1E4
C23 99 74 9E-12
E37 101 74 82 80 1
R112 101 86 1E4
C24 86 74 9E-12
G8 102 74 52 74 -1E-3
G9 74 103 52 74 1E-3
G10 74 104 83 45 1E-3
G11 105 74 22 79 1E-3
D18 105 102 DX
D19 103 104 DX
R113 102 105 100E6
R114 104 103 100E6
R115 105 22 1E3
R116 45 104 1E3
E38 22 84 22 105 1
E39 85 45 104 45 1
R117 103 74 1E6
R118 104 74 1E6
R119 74 105 1E6
R120 74 102 1E6
R121 4 68 1E9
R122 68 72 1E9
R123 72 73 1E9
R124 37 60 1E9
R125 84 22 1E9
R126 45 85 1E9
R127 74 86 1E9
R128 74 99 1E9
R129 70 0 1E9
I21 60 0 1E-12
R130 96 97 6.5E3
C25 3 2 1P
R131 52 5 6E8
E41 42 0 106 0 4.1
R132 0 106 1E6
R133 0 106 1E6
R134 0 42 1E12
R136 0 20 1E12
R137 0 24 1E12
R138 31 0 1E12
R139 0 40 1E12
I22 0 107 1E-3
D20 107 0 DX
R140 0 107 1E9
V28 107 108 0.6551
R141 0 108 1E9
R142 0 108 1E9
G12 61 0 108 0 1.68E-8
E42 61 73 108 0 7.01E-3
R143 73 61 1E9
I23 61 0 50E-9
.MODEL MNL NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL DVN D KF=1.6E-16 IS=1E-16
.MODEL DIN D
.MODEL DX D
.MODEL DD D
.MODEL NJ NJF
.MODEL QLP PNP
.MODEL QLN NPN
.MODEL POUT PMOS KP=200U VTO=-0.7 LAMBDA=0.01
.MODEL NOUT NMOS KP=200U VTO=0.7 LAMBDA=0.01
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS
* END MODEL INA270
*
